US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (160 mg, 0.33 mmol), 3-ethynylpyridine (45 mg, 0.43 mmol), 5 mg of tetrakis(triphenylphosphine)palladium(0) and 20 mg of copper(I) iodide in 2 mL of triethylamine and 7 mL of benzene is heated at reflux overnight. The mixture is cooled to room temperature and 5 mL of methanol is added. The solvents are removed in vacuo and the residue is treated with 50 mL of chloroform. The insoluble material is removed by filtration, washing with chloroform. The filtrate is washed with water. The residue is suspended in acetone, combined with the chloroform phase and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of 5% methanol in dichloromethane to 10% methanol and 1% ammonium hydroxide in dichloromethane. The fractions containing product are combined and concentrated to provide 99 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(pyridin-3-ylethynyl)thieno[3,2-b]pyridine-6-carbonitrile as light brown crystals, mp 249-250° C.; MS 451.0 (M+H)+.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 0.33 mmol, 160 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 3-ethynylpyridine | 0.43 mmol, 45 mg | C(#C)C=1C=NC=CC1 | C7H5N
reactant | methanol | 5 mL | CO | CH4O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 20 mg | [Cu]I
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(pyridin-3-ylethynyl)thieno[3,2-b]pyridine-6-carbonitrile | 99 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#CC=2C=NC=CC2 | C22H12Cl2N4OS
